US07737135B2
d) 4-bromo-2-fluoro-N,N-bis(1-methylethyl)-benzamide
The sub-title compound was prepared by the method of example 18 step a) using 4-bromo-2-fluorobenzoic acid and diisopropylamine.

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
product | 4-bromo-2-fluoro-N,N-bis(1-methylethyl)-benzamide | BrC1=CC(=C(C(=O)N(C(C)C)C(C)C)C=C1)F | C13H17BrFNO
